US06133449
(a) (S)-1-(2-Pyridylamino)butan-2-ol
(S)-1-Aminobutan-2-ol (35 millimoles), potassium tertiary butoxide (77 millimoles) and 2-chloropyridine (38.5 millimoles) were used in a similar manner to Example 1(a) to obtain the title compound, [α]D26 =+10°(1.12% concentration in trichloromethane).

reactant | (S)-1-Aminobutan-2-ol | 35 millimoles | NC[C@H](CC)O | C4H11NO
reactant | potassium tertiary butoxide | 77 millimoles | CC(C)([O-])C.[K+]
reactant | 2-chloropyridine | 38.5 millimoles | ClC1=NC=CC=C1 | C5H4ClN
product | (S)-1-(2-Pyridylamino)butan-2-ol | N1=C(C=CC=C1)NC[C@H](CC)O | C9H14N2O
